US09315467B2
Part B. To a mixture of tert-butanol (3.50 g, 47.22 mmol), pyridine (3.72 g, 46.78 mmol) and cat. DMAP in methylene chloride (15 mL) is added dropwise 3-cyanobenzoyl chloride (6.81 g, 41.07 mmol) and pyridine (3 mL) in methylene chloride (10 mL) at 0° C. The resulting mixture is stirred at room temperature for 20 h. The solvent is evaporated, and the residue is purified by flash chromatography (1:1 methylene chloride/hexanes) to afford 3-cyano-benzoic acid tert-butyl ester (6.84 g, 82.1% yield) as white solid. 1H NMR (300 MHz, CDCl3): δ 8.24 (1H, s), 8.20 (1H, dd, J=7.9, 1.2 Hz), 7.78 (1H, dd, J=6.7, 1.1 Hz), 7.52 (1H, m), 1.58 (9H, s).

reactant | tert-butanol | 47.22 mmol, 3.50 g | C(C)(C)(C)O | C4H10O
reactant | pyridine | 46.78 mmol, 3.72 g | N1=CC=CC=C1 | C5H5N
reactant | 3-cyanobenzoyl chloride | 41.07 mmol, 6.81 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-benzoic acid tert-butyl ester | 6.84 g, 82.1% yield | C(C)(C)(C)OC(C1=CC(=CC=C1)C#N)=O | C12H13NO2
